US07501447B2
Step E. Methyl[2-tert-butyl-1-(cyclohexylmethyl)-1H-benzimidazol-5-yl]carbamate
Methyl {3-amino-4-[(cyclohexylmethyl)amino]phenyl}carbamate (950 mg, 3.43 mmol) and DMAP (100 mg, 0.858 mmol) were dissolved in 25 mL of dichloromethane. Trimethylacetyl chloride (0.460 mL, 3.77 mmol) was added dropwise and the solution stirred at RT for 1 h. The solvent was concentrated. The residue was divided in two and each of them dissolved in 3 mL of glacial AcOH in a sealed tube. The solutions were heated at 150° C. using a Personal Chemistry Smith Synthesizer microwave instrument for three intervals of 30 min (3×30 min). The two tubes were combined and the solvent was evaporated. The residue was dissolved in EtOAc and washed with saturated NaHCO3 aqueous solution, brine and dried over anhydrous MgSO4. The crude product was purified by flash chromatography using 3:1/dichloromethane:diethyl ether on silica gel. Yield: 656 mg (56%); 1H NMR (400 MHz, CHLOROFORM-D) δ 1.09 (m, 2H), 1.16 (m, 4H), 1.54 (s, 9H), 1.65 (m, 1H), 1.62 (m, 1H), 1.70 (m, J=1.56 Hz, 2H), 1.73 (dd, J=5.96, 3.22 Hz, 2H), 2.02 (m, 1H), 3.78 (s, 3H), 4.10 (d, J=7.42 Hz, 2H), 6.64 (m, 1H), 7.25 (d, J=8.79 Hz, 1H), 7.39 (m, 1H), 7.59 (d, J=1.76 Hz, 1H).

reactant | Methyl {3-amino-4-[(cyclohexylmethyl)amino]phenyl}carbamate | 3.43 mmol, 950 mg | NC=1C=C(C=CC1NCC1CCCCC1)NC(OC)=O | C15H23N3O2
reactant | Trimethylacetyl chloride | 3.77 mmol, 0.460 mL | CC(C(=O)Cl)(C)C | C5H9ClO
catalyst | DMAP | 0.858 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Methyl[2-tert-butyl-1-(cyclohexylmethyl)-1H-benzimidazol-5-yl]carbamate | COC(NC1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCCCC2)C=C1)=O | C20H29N3O2
